US08247568B2
Rabeprazole (10 g) was suspended in 30 ml THF and sodium hydroxide solution (1.11 g sodium hydroxide dissolved in 1 ml water) was added at 25-30° C. Reaction mass was stirred for 30 minutes at 25-30° C. Added activated charcoal (1.0 g) and stirred for 30 minutes at 25-30° C. Filtered and washed charcoal bed with THF (20 ml). Distilled out THF under reduced pressure at 30-35° C. completely. Residue was dissolved in THF (20 ml). In a separate R B flask charged n-heptane (100 ml) at 25° C. Added slowly above reaction mass in 15-20 minutes at 25-30° C. Stirred at 25-30° C. for 2 hours. The product was filtered off under nitrogen atmosphere and wet cake was washed with n-heptane (2×20 ml). Dried under vacuum at 50° C. for 20-24 hours to obtain amorphous Rabeprazole sodium.

reactant | Rabeprazole | 10 g | CC1=C(C=CN=C1C[S+](C=2NC=3C=CC=CC3N2)[O-])OCCCOC | C18H21N3O3S
reactant | sodium hydroxide | 1 ml, 1.11 g | [OH-].[Na+]
reactant | charcoal | 1.0 g | C | CH4
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | Rabeprazole sodium | CC1=C(C=CN=C1C[S+](C=2[N-]C=3C=CC=CC3N2)[O-])OCCCOC.[Na+] | InChI=1S/C18H20N3O3S.Na/c1-13-16(19-9-8-17(13)24-11-5-10-23-2)12-25(22)18-20-14-6-3-4-7-15(14)21-18;/h3-4,6-9H,5,10-12H2,1-2H3;/q-1;+1
